US06653330B2
In the same manner as that described in Example 2(1), a reaction was carried out using 4-cyanobenzylamine (329 mg, 2.5 mmol), described in J. Am. Chem. Soc., 81, 4328 (1959), N,N-diisopropylethylamine (0.91 ml, 5.2 mmol), 4-formylbenzoyl chloride (350 mg, 2.1 mmol) and 4-(dimethylamino)pyridine (a catalytic amount) and the reaction mixture was treated according to a similar procedure to that described in Example 2(1) to afford N-(4-cyanobenzyl)-4-formylbenzamide (308 mg, yield 56) as a white solid which was recrystallized from ethyl acetate to give white fluffy crystals.

reactant | 4-cyanobenzylamine | 2.5 mmol, 329 mg | C(#N)C1=CC=C(CN)C=C1 | C8H8N2
reactant | N,N-diisopropylethylamine | 5.2 mmol, 0.91 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-formylbenzoyl chloride | 2.1 mmol, 350 mg | C(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H5ClO2
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(4-cyanobenzyl)-4-formylbenzamide | 308 mg | C(#N)C1=CC=C(CNC(C2=CC=C(C=C2)C=O)=O)C=C1 | C16H12N2O2
